US09102684B2
3-Hydroxy-5-iodo-3-phenyl-1,3-dihydro-indol-2-one
A solution of 3M 2-methoxyphenylmagnesium bromide (0.92 mL, 2.747 mmol) in Et2O is added drop wise to a suspension of 5-iodoisatin (300 mg, 1.099 mmol) in THF whilst cooling in ice. The mixture is then stirred at room temperature for 1 hour. The reaction mixture is quenched by adding ammonium chloride solution and extracted several times with ethyl acetate. The combined organic phases are washed several times with water, dried over MgSO4 and concentrated under reduced pressure. The precipitate is filtered off with suction, washed with very small amounts of ethyl acetate and dried. This afforded the desired product as a light yellow solid.

reactant | 2-methoxyphenylmagnesium bromide | 2.747 mmol, 3M, 0.92 mL | COC1=C(C=CC=C1)[Mg]Br
reactant | 5-iodoisatin | 1.099 mmol, 300 mg | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
solvent | Et2O | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | 3-Hydroxy-5-iodo-3-phenyl-1,3-dihydro-indol-2-one | OC1(C(NC2=CC=C(C=C12)I)=O)C1=CC=CC=C1 | C14H10INO2
